* U:\Windows\Bureau\Capteurs\LT spice\Filtre.asc
C1 N007 0 100n
C2 ADC 0 100n
C4 N003 N005 1µ
R1 N007 0 100k
R2 N003 0 1k
R3 N003 N005 100k
R5 N007 N004 10k
R6 ADC N005 1k
XU1 N007 N003 N001 0 N005 LTC1050
V1 N001 0 5
XX1 N001 N004 N002 0 capteur
C5 N004 N006 10p
V2 N006 0 SINE(0 325 50)
V3 N002 0 PULSE(0 1 0.2 0.1 0.1 2)

* block symbol definitions
.subckt capteur cp cn gp gn
R1 gp gc 1k
C1 gc gn 200µ
B1 cp cn I=V(cp,cn)*(10n+V(gc,gn)*10n)
.ends capteur

.tran 5
;ac dec 4 1 1G
;param G0 10n
;param G1 10n
;param R1 100k
.lib LTC.lib
.backanno
.end
